US08441002B2
17 g of 2-thiopheneethanol was cooled to 0° C., and to this, a suspension formed by adding 7.1 g of sodium hydride (60% in oil) to 110 ml of tetrahydrofuran was added dropwise. The solution was stirred at 0° C. for 20 minutes under a nitrogen atmosphere, and to this, 27 g of 1-bromononane was added dropwise. The resulting solution was heated to 90° C. and stirred for 8 hours. 100 ml of water and 100 ml of dichloromethane were added to the reaction solution to separate the organic layer. The organic layer was washed with 300 ml of saturated salt water and then dried over anhydrous magnesium sulfate. The resulting solution was concentrated by a rotary evaporator and purified by a column chromatography (filler: silica gel, eluent: hexane/dichloromethane) to obtain 20 g of 2-(2-nonyloxyethyl)thiophene.

reactant | 2-thiopheneethanol | 17 g | S1C(=CC=C1)CCO | C6H8OS
reactant | sodium hydride | 7.1 g | [H-].[Na+]
reactant | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
reactant | 1-bromononane | 27 g | BrCCCCCCCCC | C9H19Br
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-(2-nonyloxyethyl)thiophene | 20 g | C(CCCCCCCC)OCCC=1SC=CC1 | C15H26OS
